US04435403
446 mg of 6-amino-beta-carboline-3-carboxylic-acid-ethylester in 17.5 ml of absolute ethanol is heated together with 410 mg of 1.5-dibromopentane and 500 mg of ethyldiisopropylamine under nitrogen for 4 h at the reflux. After adding 74 mg more of 1,5-dibromopentane, boiling proceeds for another 2 h at the reflux. After evaporation, the remainder is introduced in methylene chloride, washed with saturated bicarbonate solution as well as with saturated NaCl solution, filtered and concentrated. After recrystallizing in alcohol, ethyl acetate and a little ether, 255 mg of 6-(1-piperidinyl)-beta-carboline-3-carboxylic-acid-ethylester, m.p. 255°-256° C., is obtained.

reactant | 6-amino-beta-carboline-3-carboxylic-acid-ethylester | 446 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)N | C14H13N3O2
reactant | 1.5-dibromopentane | 410 mg | BrCCCCCBr | C5H10Br2
reactant | ethyldiisopropylamine | 500 mg | C(C)N(C(C)C)C(C)C | C8H19N
solvent | ethanol | 17.5 ml | C(C)O | C2H6O
product | 6-(1-piperidinyl)-beta-carboline-3-carboxylic-acid-ethylester | 255 mg | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)N1CCCCC1 | C19H21N3O2
